US07446222B2
Ethyl 2′-bromo-4-methyl-2-biphenylcarboxylate
Prepared in a similar way to ethyl 4-(acetylamino)-2′-bromo-2-biphenylcarboxylate but using ethyl 2-bromo-5-methylbenzoate instead of ethyl 5-(acetylamino)-2-bromobenzoate.

reactant | ethyl 4-(acetylamino)-2′-bromo-2-biphenylcarboxylate | C(C)(=O)NC=1C=C(C(=CC1)C1=C(C=CC=C1)Br)C(=O)OCC | C17H16BrNO3
reactant | ethyl 2-bromo-5-methylbenzoate | BrC1=C(C(=O)OCC)C=C(C=C1)C | C10H11BrO2
product | Ethyl 2′-bromo-4-methyl-2-biphenylcarboxylate | BrC1=C(C=CC=C1)C=1C(=CC(=CC1)C)C(=O)OCC | C16H15BrO2
